US04831151
1.49 g (10 mmol) of 4-dimethylamino-benzaldehyde are added to a solution of 0.88 g (5 mmol) of 1,3-diamino-2-propyl-imidazolium chloride in 15 ml of glacial acetic acid. After leaving to stand at room temperature for 2 days the product is crystallized out by the addition of ether and then recrystallized from ethanol. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-propyl-imidazolium chloride of melting point 252°.

reactant | 4-dimethylamino-benzaldehyde | 10 mmol, 1.49 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1,3-diamino-2-propyl-imidazolium chloride | 5 mmol, 0.88 g | [Cl-].N[N+]1=C(N(C=C1)N)CCC
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-propyl-imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)CCC)C=C1)C | InChI=1S/C24H31N6.ClH/c1-6-7-24-29(25-18-20-8-12-22(13-9-20)27(2)3)16-17-30(24)26-19-21-10-14-23(15-11-21)28(4)5;/h8-19H,6-7H2,1-5H3;1H/q+1;/p-1
